US08222286B2
To a suspension of 5-amino-1H-tetrazole (1.50 g, 17.6 mmol) in DMF (30 mL) were added Cs2CO3 (8.62 g, 26.4 mmol) and PMBCl (2.90 g, 18.5 mmol). After stirred at 60° C. for 3 hours, the reaction mixture was cooled to room temperature and diluted with EtOAc. The mixture was washed with H2O and brine, dried over Na2SO4, and concentrated under reduced pressure. The residue was diluted with DCM and the resulted precipitate was collected by filtration to give 1-(4-methoxy-benzyl)-1H-tetrazol-5-ylamine (0.625 g). 1H NMR (400 MHz, DMSO-d6) δ 3.73 (s, 3H), 5.27 (s, 2H), 6.78 (s, 2H), 6.92 (d, 2H, J=8.8 Hz), 7.21 (d, 2H, J=8.8 Hz).

reactant | 5-amino-1H-tetrazole | 17.6 mmol, 1.50 g | NC1=NN=NN1 | CH3N5
reactant | Cs2CO3 | 26.4 mmol, 8.62 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | PMBCl | 18.5 mmol, 2.90 g | COC1=CC=C(C=C1)CCl | C8H9ClO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(4-methoxy-benzyl)-1H-tetrazol-5-ylamine | 0.625 g | COC1=CC=C(CN2N=NN=C2N)C=C1 | C9H11N5O
